US04168379
12.1 g (50 millimoles) of 4-benzyl-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-ol are suspended in 40 ml of dry dimethylsulfoxide and converted to the sodium salt by adding 1.75 g (60 millimoles) of sodium hydride (85% strength) in oil at 20° C. When the evolution of hydrogen has ceased, 8.1 g (75 millimoles) of freshly distilled β-dimethylaminoethyl chloride are added dropwise and the mixture is left to stand for 15 hours at 10° C. The dimethylsulfoxide is distilled off in a high vacuum. The residue is taken up in methylene chloride, the salts and unconverted pyridinol are washed out with dilute sodium hydroxide solution and the methylene chloride phase is dried and concentrated under reduced pressure. The residue is converted to the hydrochloride by means of dilute hydrochloric acid and the hydrochloride is recrystallized from a mixture of ethanol and ether. 10.0 g of 4-benzyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-yl β-dimethylaminoethyl ether bis-hydrochloride, melting point 213° -214° C., are obtained.

reactant | 4-benzyl-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-ol | 50 millimoles, 12.1 g | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)C | C15H15NO2
reactant | sodium | [Na] | Na
reactant | sodium hydride | 60 millimoles, 1.75 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | β-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-benzyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-yl β-dimethylaminoethyl ether bis-hydrochloride | 10.0 g | Cl.Cl.CN(CCOC=1C2=C(C(=NC1C)CC1=CC=CC=C1)COC2)C | InChI=1S/C19H24N2O2.2ClH/c1-14-19(23-10-9-21(2)3)17-13-22-12-16(17)18(20-14)11-15-7-5-4-6-8-15;;/h4-8H,9-13H2,1-3H3;2*1H
